US05508453
Tauroursodeoxycholic acid
2.5 g (24.75 mmol) of triethylamine are added dropwise at a temperature of 20° C. to a suspension of 9.6 g (24.45 mmol) of ursodeoxycholic acid in 60 ml of dioxane. Once solubilized, the mixture is cooled to 10° C., 2.98 g (24.70 mmol) of pivaloyl chloride are added slowly and the temperature is then allowed to rise spontaneously to 20° C. The salts formed are filtered off and the precipitate is washed with dioxane, the washings being added to the solution. 3.84 g (30.72 mmol) of taurine dissolved in 24 ml of 1N NaOH are added to the solution obtained and the mixture is stirred for 3 hours at 15° C. The reaction can be followed by thin layer chromatography using CHCl3 /MeOH/AcOH=70/30/5 as the eluent.

reactant | triethylamine | 24.75 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | ursodeoxycholic acid | 24.45 mmol, 9.6 g | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2[C@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C24H40O4
reactant | pivaloyl chloride | 24.70 mmol, 2.98 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | taurine | 30.72 mmol, 3.84 g | NCCS(=O)(=O)O | C2H7NO3S
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 24 ml | [OH-].[Na+]
solvent | CHCl3 MeOH AcOH | C(Cl)(Cl)Cl.CO.CC(=O)O
product | Tauroursodeoxycholic acid | C[C@H](CCC(=O)NCCS(=O)(=O)O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C | C26H45NO5S
